US05302720
A suspension of N-(5-methyl-2-biphenylyl)thiourea (6.5 g) in water (50 ml) was reacted with a solution of potassium hydroxide (15 g) in water (50 ml). Lead acetate trihydrate (10.2 g) in water (50 ml) was added and the mixture heated at 90°-95° C. for 1 hour to give 5-methyl-2-biphenylylcyanamide as a colourless solid (m.p. 80° C.).

reactant | N-(5-methyl-2-biphenylyl)thiourea | 6.5 g | CC=1C=CC(=C(C1)C1=CC=CC=C1)NC(=S)N | C14H14N2S
reactant | potassium hydroxide | 15 g | [OH-].[K+]
reactant | Lead acetate trihydrate | 10.2 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 5-methyl-2-biphenylylcyanamide | CC=1C=CC(=C(C1)C1=CC=CC=C1)NC#N | C14H12N2
